US06784192B2
1-[(6-Methoxy-2-pyridyl)methyl]-4-(2,3-methylenedioxyphenethyl)piperidine
In a 28% sodium methoxide methanol solution (2 ml) was dissolved 218 mg of 1-[(6-bromo-2-pyridyl)methyl]-4-(2,3-methylenedioxyphenethyl)piperidine obtained in Referential Example 19, followed by heating under reflux for 1 hour. Water was added to the reaction solution, and the mixture was extracted with ethyl acetate. The extract was washed with brine, dried over anhydrous magnesium sulfate and the solvent was evaporated, to give 144 mg of the title compound as a colorless oil.

reactant | 1-[(6-bromo-2-pyridyl)methyl]-4-(2,3-methylenedioxyphenethyl)piperidine | 218 mg | BrC1=CC=CC(=N1)CN1CCC(CC1)CCC1=C2C(=CC=C1)OCO2 | C20H23BrN2O2
reactant | Water | O | H2O
reactant | sodium methoxide methanol | 2 ml | CO.C[O-].[Na+]
product | 1-[(6-Methoxy-2-pyridyl)methyl]-4-(2,3-methylenedioxyphenethyl)piperidine | 144 mg | COC1=CC=CC(=N1)CN1CCC(CC1)CCC1=C2C(=CC=C1)OCO2 | C21H26N2O3
